US07576062B2
At 0° C., N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (416 mg, 2.17 mmol) was added to a solution of (2R)-2-(N-(tert-butoxycarbonyl)-N-methylamino)-3-(2-naphthyl)-propionic acid (715 mg, 2.17 mmol) and 1-hydroxy-7-azabenzotriazole (296 mg, 2.17 mmol) in dichloromethane (20 ml) and N,N-dimethylformamide (10 ml). The reaction mixture was stirred for 20 min at 0° C. A solution of (2R)-1-(4-((dimethylamino)methyl)piperidin-1-yl)-2-(methylamino)-3-phenylpropan-1-one (659 mg, 2.17 mmol) in dichloromethane (10 ml) and N,N-dimethylformamide (5 ml) and ethyldiisopropylamine (0.56 ml, 3.26 mmol) were added successively. The reaction mixture was stirred for 16 h, while it was warming up to room temperature. It was diluted with ethyl acetate (100 ml) and washed with a saturated aqueous solution of sodium hydrogen carbonate (100 ml). The aqueous solution was extracted with ethyl acetate (3×50 ml). The combined organic layers were dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (80 g), using ethyl acetate/heptane/triethylamine (1:1:0.08) as eluent, to give 1.05 g of N-((1R)-1-{N-[(1R)-1-benzyl-2-(4-((dimethylamino)methyl)piperidin-1-yl)-2-oxoethyl]-N-methylcarbamoyl}-2-(2-naphthyl)ethyl)-N-methylcarbamic acid tert-butyl ester.

reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 2.17 mmol, 416 mg | Cl.CN(CCCN=C=NCC)C
reactant | (2R)-2-(N-(tert-butoxycarbonyl)-N-methylamino)-3-(2-naphthyl)-propionic acid | 2.17 mmol, 715 mg | C(C)(C)(C)OC(=O)N(C)[C@@H](C(=O)O)CC1=CC2=CC=CC=C2C=C1 | C19H23NO4
reactant | 1-hydroxy-7-azabenzotriazole | 2.17 mmol, 296 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | (2R)-1-(4-((dimethylamino)methyl)piperidin-1-yl)-2-(methylamino)-3-phenylpropan-1-one | 2.17 mmol, 659 mg | CN(C)CC1CCN(CC1)C([C@@H](CC1=CC=CC=C1)NC)=O | C18H29N3O
reactant | ethyldiisopropylamine | 3.26 mmol, 0.56 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | N-((1R)-1-{N-[(1R)-1-benzyl-2-(4-((dimethylamino)methyl)piperidin-1-yl)-2-oxoethyl]-N-methylcarbamoyl}-2-(2-naphthyl)ethyl)-N-methylcarbamic acid tert-butyl ester | 1.05 g | C(C)(C)(C)OC(N(C)[C@H](CC1=CC2=CC=CC=C2C=C1)C(N(C)[C@@H](C(=O)N1CCC(CC1)CN(C)C)CC1=CC=CC=C1)=O)=O | C37H50N4O4
